US04932983
4,4'-(methylethylidene)bisaniline (11.3 g, 0.05 mol)
in N-methylpyrrolidone (300 ml) was added 3,3',4,4'-benzophenonetetracarboxylic dianhydride (32.87 g, 0.102 mol) under an inert atmosphere at room temperature. The reaction solution was allowed to stir overnight at room temperature and then a solution of acetic anhydride (40.84 g, 0.40 mol) and triethylamine (40.48 g, 0.40 mol) was added with rapid stirring. After stirring at room temperature for 3 hours, the reaction solution was precipitated in water. The resulting solid was collected and washed twice with water, washed twice with methanol and allowed to air dry overnight. The solid was further dried in a vacuum oven at 20 inches (0.51 m) mercury and 120° C. for 4 hours and at 240° C. for 3 hours to yield 56.8 g product.

reactant | 3,3',4,4'-benzophenonetetracarboxylic dianhydride | 0.102 mol, 32.87 g | C1=CC2=C(C=C1C(=O)C3=CC4=C(C=C3)C(=O)OC4=O)C(=O)OC2=O | C17H6O7
reactant | acetic anhydride | 0.40 mol, 40.84 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.40 mol, 40.48 g | C(C)N(CC)CC | C6H15N
reactant | N-methylpyrrolidone | 300 ml | CN1C(CCC1)=O | C5H9NO
product | 4,4'-(methylethylidene)bisaniline | 56.8 g | CC(C)(C1=CC=C(N)C=C1)C1=CC=C(N)C=C1 | C15H18N2
